US05498630
A solution of 1.3M s-BuLi in cyclohexane (44 mL, 57.2 mmol) was added dropwise to a -78° C. cooled solution of N-ethyl-3-thiophenecarboxamide (4.04 g, 26 mmol) and TMEDA (6.65 g, 57.2 mmol) in THF (100 mL). After stirring for 30 min at -78° C., a solution of hexachloroethane (13.54 g, 57.2 mmol) in THF (20 mL) was added dropwise. The resulting reaction mixture was warmed to RT over 1 h, quenched with dilute aq citric acid, and extracted with EtOAc (3×). The combined organic extracts were dried (MgSO4), concentrated, and purified by HPLC with 3:7 EtOAc/hexanes to give 2.8 g of N-ethyl-2-chloro-3-thiophenecarboxamide as a yellow oil, a 57% yield.

reactant | s-BuLi | 1.3M | [Li]C(C)CC
reactant | cyclohexane | 57.2 mmol, 44 mL | C1CCCCC1 | C6H12
reactant | N-ethyl-3-thiophenecarboxamide | 26 mmol, 4.04 g | C(C)NC(=O)C1=CSC=C1 | C7H9NOS
reactant | TMEDA | 57.2 mmol, 6.65 g | CN(C)CCN(C)C | C6H16N2
reactant | hexachloroethane | 57.2 mmol, 13.54 g | ClC(C(Cl)(Cl)Cl)(Cl)Cl | C2Cl6
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | N-ethyl-2-chloro-3-thiophenecarboxamide | 2.8 g, 57% yield | C(C)NC(=O)C1=C(SC=C1)Cl | C7H8ClNOS
